US08053454B2
Step 1: 2-Chloro-5-(1H-tetrazol-5-yl)pyrimidin-4-amine
Into a sealed tube were added 4-amino-2-chloro-pyrimidine-5-carbonitrile (837 mg, 5.4 mmol), sodium azide (7.1 mmol, 1.3 eq.), triethylamine hydrochloride (7.1 mmol, 1.3 eq.) and 14 mL of toluene. The tube was tightly capped and the reaction was stirred and heated to 100° C. overnight. The mixture was cooled to room temperature, diluted with ethyl acetate, transferred to a separatory funnel and extracted three times with water. The aqueous extractions were combined and acidified to a pH of 4 with concentrated HCl. The precipitate was collected by filtration, washed with acetonitrile, and dried under vacuum to afford 460 mg of the product, which was used without further purification. MS (EI) for C5HClN7: 198 (M+H).

reactant | 4-amino-2-chloro-pyrimidine-5-carbonitrile | 5.4 mmol, 837 mg | NC1=NC(=NC=C1C#N)Cl | C5H3ClN4
reactant | sodium azide | 7.1 mmol, 1.3 eq. | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 7.1 mmol, 1.3 eq. | Cl.C(C)N(CC)CC
reactant | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-(1H-tetrazol-5-yl)pyrimidin-4-amine | 460 mg | ClC1=NC=C(C(=N1)N)C1=NN=NN1 | C5H4ClN7
